US04208517
(6R,7R)-3-Acetoxymethyl-7-[Z-2-(fur-2-yl)-2-ureidocarbonylmethoxyiminoacetamido]-ceph-3-em-4-carboxylic acid
This compound was prepared from iodoacetylurea and (6R,7R)-3-acetoxymethyl-7-[Z-2-(fur-2-yl)-2-hydroxyiminoacetamido]-ceph-3-em-4-carboxylic acid sodium salt by the method described in Example 1. λmax (EtOH) 274 nm (ε 17,300), νmax (Nujol) 3420, 3260 (--NH--, --NH2), 3700-2100 (bonded OH), 1780 (β-lactam), 1720(--CO2H, acetate), 1700, 1570, 1545 cm-1 (CONH, CONH2), τ (DMSO d6) 2.11, 3.3, 3.18 (furyl), 5.28 (--O--CH2 --), 0.09 (--CONHCO--), 2.5 (CONH2), 0.11 (CONH), 4.1 (7 H), 4.78 (6 H), 6.29, 6.51 (2--CH2), 4.95, 5.28 (3 --CH2), 7.93 (CH3CO--). Yield: 34%.

reactant | iodoacetylurea | ICC(=O)NC(=O)N | C3H5IN2O2
reactant | (6R,7R)-3-acetoxymethyl-7-[Z-2-(fur-2-yl)-2-hydroxyiminoacetamido]-ceph-3-em-4-carboxylic acid sodium salt | [Na+].C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)[O-])C([C@H]2NC(\C(=N/O)\C=2OC=CC2)=O)=O
reactant | EtOH | CCO | C2H6O
reactant | acetate | C(C)(=O)[O-]
solvent | DMSO | CS(=O)C | C2H6OS
product | (6R,7R)-3-Acetoxymethyl-7-[Z-2-(fur-2-yl)-2-ureidocarbonylmethoxyiminoacetamido]-ceph-3-em-4-carboxylic acid | Yield: 34% | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(\C(=N/OCC(=O)NC(=O)N)\C=2OC=CC2)=O)=O | C19H19N5O10S
